US08426447B2
A resealable tube was charged with a mixture of 5-bromo-2-(2-chloropyridin-4-yloxy)-N,N-diethylbenzamide (2.500 g, 6.52 mmol), pyrimidin-5-ylboronic acid (2.018 g, 16.29 mmol), and potassium carbonate (4.50 g, 32.6 mmol) in THF (40.0 mL) and water (10.0 mL). Tetrakis(triphenylphosphine)palladium(0) (0.376 g, 0.326 mmol) was added, the system was purged with argon, and the tube was sealed. The reaction mixture was stirred at 100° C. for 4.0 h. The reaction mixture was partitioned between EtOAc and water. The aqueous phase was separated and extracted with EtOAc. The combined organic phases were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford a brown solid. This material was purified via column chromatography on silica gel (RediSep 120 g column, gradient elution with 50-100% ethyl acetate-hexane) to afford 2-(2-chloropyridin-4-yloxy)-N,N-diethyl-5-(pyrimidin-5-yl)benzamide as an off-white solid. MS m/z=383.2 [M+H]+. Calcd for C20H19ClN4O2: 382.1.

reactant | 5-bromo-2-(2-chloropyridin-4-yloxy)-N,N-diethylbenzamide | 6.52 mmol, 2.500 g | BrC=1C=CC(=C(C(=O)N(CC)CC)C1)OC1=CC(=NC=C1)Cl | C16H16BrClN2O2
reactant | pyrimidin-5-ylboronic acid | 16.29 mmol, 2.018 g | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | potassium carbonate | 32.6 mmol, 4.50 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 40.0 mL | C1CCOC1 | C4H8O
solvent | water | 10.0 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.326 mmol, 0.376 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-chloropyridin-4-yloxy)-N,N-diethyl-5-(pyrimidin-5-yl)benzamide | ClC1=NC=CC(=C1)OC1=C(C(=O)N(CC)CC)C=C(C=C1)C=1C=NC=NC1 | C20H19ClN4O2
